US04694004
To a solution of N-amino-1,2,3,6-tetrahydropyridine hydrochloride (1.346 g) and triethylamine (2.024 g) in methylene chloride (60 ml) was added a solution of phenyl chloroformate (1.566 g) in methylene chloride (40 ml) and the mixture was stirred for 4 hours at 5° C. Evaporation of the solvent gave a residue, which was extracted with ethyl acetate (150 ml). The extract was washed with water and dried over magnesium sulfate. The solvent was evaporated in vacuo to give N-(phenoxycarbonylamino)-1,2,3,6-tetrahydropyridine (2.01 g), which was recrystallized from diisopropyl ether to give the desired compound (0.732 g) as colorless needles.

reactant | N-amino-1,2,3,6-tetrahydropyridine hydrochloride | 1.346 g | Cl.NN1CCC=CC1
reactant | triethylamine | 2.024 g | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 1.566 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-(phenoxycarbonylamino)-1,2,3,6-tetrahydropyridine | 2.01 g | O(C1=CC=CC=C1)C(=O)NN1CCC=CC1 | C12H14N2O2
